US06384234B1
Preparation of 1-Chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide
20 g of 4-fluoro-3-nitroaniline (128 mmol) was dissolved in a mixture of 200 mL of dichloromethane and 40 mL of pyridine. To this solution was added 21 g (140 mmol) of chloromethylsulfonyl chloride dropwise at 20-30° C., followed by the addition of 3.21 g of dimethylaminopyridine. The solution was stirred for an additional 3 hours. The reaction mixture was transferred into a separatory funnel and washed sequentially with water (twice with 25 mL), 5% HCl (twice with 25 mL), and water (25 mL). The organic phase was separated, dried (MgSO4), filtered and concentrated under reduced pressure to yield 32 g (93%) of the title compound as a solid melting at 112-113° C.

reactant | 4-fluoro-3-nitroaniline | 128 mmol, 20 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | chloromethylsulfonyl chloride | 140 mmol, 21 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | dimethylaminopyridine | 3.21 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 1-Chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide | 32 g, 93% | ClCS(=O)(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H6ClFN2O4S
